US07709479B1
N-(2-Cyanophenyl)-2-chloro-4-nitrobenzamide (1.30 g, 4.04 mmol) was added to a stirred suspension of tin (II) chloride dihydrate (4.42 g, 23 mmol) in hydrochloric acid (52 ml) at 0° C. The reaction was allowed to warm to ambient temperature over 2 hours and aqueous sodium hydroxide was added to take the reaction to pH 10. Extraction of the aqueous layer with dichloromethane (3×50 ml), followed by solvent evaporation in vacuo, yielded N-(2-cyanophenyl)-4-amino-2-chlorobenzamide (0.19 g, 16% yield) as a white solid:

reactant | N-(2-Cyanophenyl)-2-chloro-4-nitrobenzamide | 4.04 mmol, 1.30 g | C(#N)C1=C(C=CC=C1)NC(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O | C14H8ClN3O3
reactant | tin (II) chloride dihydrate | 23 mmol, 4.42 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 52 ml | Cl | ClH
product | N-(2-cyanophenyl)-4-amino-2-chlorobenzamide | 0.19 g, 16% yield | C(#N)C1=C(C=CC=C1)NC(C1=C(C=C(C=C1)N)Cl)=O | C14H10ClN3O
